US04576732
315 g of said terephthalaldehydic acid chloride dissolved in 400 ml of toluene was dropped into an ice-cooled mixed solution of commercially available S(-)-2-methylbutanol (optically active amyl alcohol) and 230 g of pyridine, and heated under reflux for 2 hours. The reaction solution was cooled to room temperature and further cooled with ice, and acidified by adding 6N hydrochloric acid thereto to remove pyridine in the organic layer. The organic layer was then washed successively with water, 2N aqueous sodium hydroxide solution, and again with water. Toluene as a solvent was distilled off in vacuum, and the remaining reaction product was distilled in vacuum to obtain p-(2-methylbutoxycarbonyl)benzaldehyde (b.p. 118°-124° C./3.5 Torr).

reactant | terephthalaldehydic acid chloride | 315 g | C(C1=CC=C(C=O)C=C1)(=O)Cl | C8H5ClO2
reactant | active amyl alcohol | C(C(C)CC)O | C5H12O
reactant | pyridine | 230 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | p-(2-methylbutoxycarbonyl)benzaldehyde | CC(COC(=O)C1=CC=C(C=O)C=C1)CC | C13H16O3
